US04517123
N,N'-Bis[2-methyl-2-(methylthio)propanoyl]-L-cystine
To a stirred solution of 3.1 g (13 mM) of L-cystine in 105 ml of 0.5 N sodium hydroxide, 4.0 g (26 mM) of 2-methyl-2-(methylthio)propanoyl chloride is added dropwise at 5°-10° C. After the addition the reaction mixture is stirred for 45 minutes at the same temperature and for additional 20 minutes at the room temperature. The reaction mixture is washed with ether, acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer is washed with water and dried. Ehtyl acetate is distillated off and the residue is purified by silica gel column chromatography to give 5.1 g (83%) of the titled compound.

reactant | L-cystine | 13 mM, 3.1 g | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | 2-methyl-2-(methylthio)propanoyl chloride | 26 mM, 4.0 g | CC(C(=O)Cl)(C)SC | C5H9ClOS
solvent | sodium hydroxide | 0.5 N, 105 ml | [OH-].[Na+]
product | N,N'-Bis[2-methyl-2-(methylthio)propanoyl]-L-cystine | 5.1 g, 83% | CC(C(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(C(C)(C)SC)=O)C(=O)O)(C)SC | C16H28N2O6S4
